US05229395
A mixture of 9-chloro-3-methoxyacridine, (975 mg, 4 mmol), 3-aminophenethyl alcohol (549 mg, 4 ml) and methanesulfonic acid (0.32 ml, 5 mmol) in methanol (30 ml) is stirred under reflux for 2 hours. The mixture is concentrated in vacuo, and the residue is dissolved in methanol (10 ml). The solution is diluted with ether (150 ml). The precipitates are collected by filtration, washed with ether to give 9-[3'-(β-hydroxyethyl)anilino]-3-methoxyacridine, as the methanesulfonate (1.15 g, 65%), mp 186°-188° C.

reactant | 9-chloro-3-methoxyacridine | 4 mmol, 975 mg | ClC=1C2=CC=CC=C2N=C2C=C(C=CC12)OC | C14H10ClNO
reactant | 3-aminophenethyl alcohol | 4 ml, 549 mg | NC=1C=C(CCO)C=CC1 | C8H11NO
reactant | methanesulfonic acid | 5 mmol, 0.32 ml | CS(=O)(=O)O | CH4O3S
solvent | methanol | 30 ml | CO | CH4O
product | 9-[3'-(β-hydroxyethyl)anilino]-3-methoxyacridine | OCCC=1C=C(NC=2C3=CC=CC=C3N=C3C=C(C=CC23)OC)C=CC1 | C22H20N2O2
